** sch_path: /foss/designs/libs/core_ina/ina_clockgen/ina_clockgen.sch
.subckt ina_clockgen VDD CLKIN CLKA CLKB VSS
*.PININFO CLKIN:I VDD:I VSS:I CLKA:O CLKB:O
x1 VDD net4 CLKIN net1 VSS ina_nand
x2 VDD net6 net3 net2 VSS ina_nand
x3 VDD CLKIN net2 VSS ina_inv
x4 VDD net4 net5 VSS ina_inv
x5 VDD net5 net3 VSS ina_inv
x6 VDD net3 CLKA VSS ina_inv
x7 VDD net6 net7 VSS ina_inv
x8 VDD net7 net1 VSS ina_inv
x9 VDD net1 CLKB VSS ina_inv
.ends

* expanding   symbol:  libs/core_ina/ina_nand/ina_nand.sym # of pins=5
** sym_path: /foss/designs/libs/core_ina/ina_nand/ina_nand.sym
** sch_path: /foss/designs/libs/core_ina/ina_nand/ina_nand.sch
.subckt ina_nand VDD Vout Vin1 Vin2 VSS
*.PININFO VDD:I Vin1:I Vin2:I VSS:I Vout:O
MN1 Vout Vin1 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 m=1
MN2 Vout Vin2 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 m=1
MN3 Vout Vin1 net1 VSS nfet_03v3 L=0.28u W=2u nf=1 m=1
MN4 net1 Vin2 VSS VSS nfet_03v3 L=0.28u W=2u nf=1 m=1
.ends


* expanding   symbol:  libs/core_ina/ina_inv/ina_inv.sym # of pins=4
** sym_path: /foss/designs/libs/core_ina/ina_inv/ina_inv.sym
** sch_path: /foss/designs/libs/core_ina/ina_inv/ina_inv.sch
.subckt ina_inv VDD Vin Vout VSS
*.PININFO VDD:I VSS:I Vin:I Vout:O
MI1 Vout Vin VDD VDD pfet_03v3 L=0.28u W=2u nf=1 m=1
MI2 Vout Vin VSS VSS nfet_03v3 L=0.28u W=1u nf=1 m=1
.ends

